### ISSUE TITLE
[ROSSER]: Stieltjes integral for sum over primes (4.13)

### ISSUE THREAD

**Issue by teorth** [AlexKontorovich/PrimeNumberTheoremAnd#599]
## Description

A straightforward application of Stieltjes integration.

## Blueprint

[Sublemma 9.2.2](https://alexkontorovich.github.io/PrimeNumberTheoremAnd/blueprint/secondary-chapter.html#rs-pre-413)

## Zulip

[Link](https://leanprover.zulipchat.com/#narrow/channel/423402-PrimeNumberTheorem.2B/topic/Some.20Rosser-Schoenfeld.20identities)

**Comment by pitmonticone** [comment]
@Aristotle-Harmonic found this block to be false. 

Here is a proof of the negation:
```lean
theorem eq_413 {f : ℝ → ℝ} (hf : DifferentiableOn ℝ f (Set.Ici 2)) (x : ℝ) :
    ∑ p ∈ Finset.filter Nat.Prime (Finset.range ⌊x⌋₊), f p =
      f x * θ x / log x -
      ∫ y in 2..x, θ y * deriv (fun t ↦ f t / log t) y := by
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state;
  -- Proof starts here:
  -- Let's choose the function $f(x) = 1$.
  use fun x => 1;
  -- Let's choose $x = 2$.
  use differentiableOn_const 1, 2; norm_num [θ];
  -- By definition of Chebyshev's theta function, we have θ(2) = ∑ p ∈ Finset.filter Nat.Prime (Finset.Icc 1 2), Real.log p.
  simp [Chebyshev.theta];
  -- The set of primes less than or equal to 2 is {2}, so the sum is just log(2).
  simp [Finset.sum_filter, Finset.sum_Ioc_succ_top];
  -- Since 2 is a prime number, the assumption ¬Nat.Prime 2 is false, making the implication trivially true.
  norm_num at *
```

**Comment by Aaron1011** [comment]
claim

**Comment by Aaron1011** [comment]
propose #821
